US04260612
To a solution of 0.4 g. of sodium hydroxide in 10 ml. of water 1.0 g. (3.34 mmoles) of 9-anilino-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid is added. The solution is stirred for 5 hours in a hydrogen gas atmosphere at 70°-80° C. The reaction mixture is then cooled to room temperature, the precipitated crystals are filtered and washed with water. 0.4 g. (46.9%) of 9-anilino-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one is obtained. Melting point: 160°-162° C. The product melts at 165°-167° C. after recrystallization from acetonitrile.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 9-anilino-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 3.34 mmoles | N(C1=CC=CC=C1)C1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C16H17N3O3
reactant | hydrogen | [H][H] | H2
solvent | water | 1.0 g | O | H2O
product | 9-anilino-6-methyl-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-4-one | 46.9% | N(C1=CC=CC=C1)C1CCC(N2C1=NC=CC2=O)C | C15H17N3O
